US07026335B2
Preparation of N-[1-(R)-(4-chlorobenzyl)-2-(4-cyclohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-oxo-ethyl]-methanesulfonamide (21):
To a solution of 2-(R)-amino-3-(4-chlorophenyl)-1-(4-cyclohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-propan-1-one, 20, (400 mg, 0.93 mmol) in tetrahydrofuran (10 mL) at 0° C. is added triethylamine (0.78 mL, 5.58 mmol) and methanesulfonyl chloride (0.09 mL, 1.11 mmol). The resulting suspension is allowed to stir at room temperature overnight and the solvent removed under reduced pressure. The crude product is purified by preparative HPLC to afford 314.5 mg (54% yield) of the desired compound as the trifluoroacetic acid salt. 1H NMR (300 MHz, CD3OD) δ 0.80–1.92 (m, 15H), 2.78–3.08 (m, 5H), 3.30–3.90 (m, 4H), 4.25–4.40 (m, 2H), 4.65–4.75 (m, 1H), 7.25–7.40 (m, 4H), 8.00–8.08 (m, 1H), 8.52 (s, 1H).

reactant | 2-(R)-amino-3-(4-chlorophenyl)-1-(4-cyclohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-propan-1-one | N[C@@H](C(=O)N1CCC(CC1)(CN1N=CN=C1)C1CCCCC1)CC1=CC=C(C=C1)Cl | C23H32ClN5O
reactant | triethylamine | 5.58 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.11 mmol, 0.09 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[1-(R)-(4-chlorobenzyl)-2-(4-cyclohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-oxo-ethyl]-methanesulfonamide | 314.5 mg, 54% yield | ClC1=CC=C(C[C@H](C(=O)N2CCC(CC2)(CN2N=CN=C2)C2CCCCC2)NS(=O)(=O)C)C=C1 | C24H34ClN5O3S
